US05262390
A 2M solution of ethylmagnesium bromide in tetrahydrofuran (50 ml, 0.10 mole) was placed in a flask, and a solution of 12.85 g (0.10 mole) of 3-chlorophenol in 50 mL of diethyl ether was added slowly with stirring. The addition required two hours, after which the solvents were removed by evaporation under reduced pressure. Toluene (200 ml), 7.50 g (0.25 mole) of paraformaldehyde, and 17.92 g (0.10 mole) of hexamethylphosphoramide were added to the residue, and this mixture was heated at 80° C. for approximately 16 hours. The solvent was evaporated under reduced pressure, leaving a residue. This residue was washed successively with 50 mL of hydrochloric acid and 300 mL of water. Vacuum distillation of the washed residue yielded 11.50 g of 4-chlorosalicylaldehyde, b.p. 112° C. at 9 mm of Hg. This reaction was repeated several times.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | tetrahydrofuran | 0.10 mole, 50 ml | O1CCCC1 | C4H8O
reactant | 3-chlorophenol | 0.10 mole, 12.85 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | paraformaldehyde | 0.25 mole, 7.50 g | C=O | CH2O
reactant | hexamethylphosphoramide | 0.10 mole, 17.92 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | Toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlorosalicylaldehyde | 11.50 g | ClC=1C=C(C(C=O)=CC1)O | C7H5ClO2
